US05639779
5-(2-Ethylsulphonylethyl)-3-[N-(2-hydroxyethyl)-2(R)pyrrolidinylmethyl]-1H-indole
To a stirred solution of 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole (Preparation 5; 350 mg, 1.1 mmol) in dry dimethylformamide (10 ml) at room temperature under nitrogen was added ethylene carbonate (160 mg, 1.8 mmol). The mixture was heated at 120° C. for 18 hours, allowed to cool, then partitioned between ethyl acetate and water. The organic phase was separated, washed with water (3×), dried (Na2SO4) and evaporated under reduced pressure to give a foam. Purification by column chromatography on silica gel, eluting initially with dichloromethane followed by a gradient of 0.880 aqueous ammonia:ethanol: dichloromethane (0:10:90 to 0.5:10:90), afforded the title compound as gum. Rf 0.35 (SS 4). Found: C,62.29; H,7.73; N,7.23. C19H28N2O3S; 0.05 CH2Cl2 requires C,62.04; H,7.68; N,7.60%. δ(CDCl3): 1.35(3H,t), 1.50-1.90(5H,m), 2.30(1H,m), 2.50(1H,m), 2.70(1H,m), 2.80-3.35(10H,m), 3.60-3.75(2H,m), 5.30(0.10H,s,CH2Cl2), 7.00(1H,d), 7.05(1H,s), 7.25(1H,d), 7.40(1H,s), 8.25(1H,br s).

reactant | 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole | 1.1 mmol, 350 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C17H24N2O2S
reactant | ethylene carbonate | 1.8 mmol, 160 mg | C1(OCCO1)=O | C3H4O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(2-Ethylsulphonylethyl)-3-[N-(2-hydroxyethyl)-2(R)pyrrolidinylmethyl]-1H-indole | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)CCO | C19H28N2O3S
